US04588749
N-(3-(4-Methylphenyl)propyl)-2-hydroxy-2-(3-trifluoromethylphenyl)ethanamine
The title compound was prepared in the manner described in Example 9 using 3-trifluoromethylphenylglyoxal and 3-(4-methylphenyl)propanamine. Recrystallization of the chromatographed material from hexane gave the title compound m.p. 96-98. τ(CDCl3) 8.0-8.5 (2H, m), 7.7 (3H, s), 7.0-7.5 (6H, m+2H, disappears with D2O), 5.3 (1H, dd), 2.9 (4H, s), 2.3-2.7 (4H, m).

reactant | 3-trifluoromethylphenylglyoxal | FC(C=1C=C(C=CC1)C(=O)C=O)(F)F | C9H5F3O2
reactant | 3-(4-methylphenyl)propanamine | CC1=CC=C(C=C1)CCCN | C10H15N
product | N-(3-(4-Methylphenyl)propyl)-2-hydroxy-2-(3-trifluoromethylphenyl)ethanamine | CC1=CC=C(C=C1)CCCNCC(C1=CC(=CC=C1)C(F)(F)F)O | C19H22F3NO
